US04005073
A total of 32 g of isobutylmalonic acid was boiled under reflux with 60 g of 5-indanol and 60 g of phosphorus pentoxide in 1000 ml of toluene. The solution was decanted from undissolved material and evaporated under reduced pressure. The brownish oily residue was chromatographed on a column of silica gel with benzene as the eluant. After evaporation under reduced pressure, the fractions containing the desired compound yielded 26.0 g of a light oil which crystallizes on standing to yield isobutylmalonic acid di-5-indanyl ester.

reactant | isobutylmalonic acid | 32 g | C(C(C)C)C(C(=O)O)C(=O)O | C7H12O4
reactant | 5-indanol | 60 g | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | phosphorus pentoxide | 60 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | isobutylmalonic acid di-5-indanyl ester | C1CCC2=CC(=CC=C12)OC(C(C(=O)OC=1C=C2CCCC2=CC1)CC(C)C)=O | C25H28O4
